US04246263
4-[2-(4-Methoxyphenyl)-2-hydroxyethylthiomethyl]pyridine
Under a nitrogen atmosphere, alpha-(4-picolylthio)p-methoxyacetophenone (1.99 g., 7.3 mmoles) was dissolved in 25 ml. of stirring ethanol. Sodium borohydride (0.45 g., 11.7 mmoles) was added portionwise and the mixture then refluxed gently for 30 minutes. The mixture was partially cooled and evaporated to dryness. Water (50 ml.) was added to the residue, which was then acidified with excess 1 N hydrochloric acid. The acid solution was made basic with solid sodium bicarbonate and product extracted into ethyl acetate. The ethyl acetate was dried over anhydrous sodium sulfate and concentrated to an oil, which crystallized on standing. Trituration with diethyl ether and filtration gave purified 4-[2-(4-methoxyphenyl)2-hydroxyethylthiomethyl]pyridine [1.50 g.; m.p. 70°-72.5° C.; pnmr/CDCl3 /TMS/τ: 7.2 (d, 2H), 6.4 (s, 2H), 6.3 (1H, exchanges with D2O), 6.2 (d, 3H), 5.3 (t, 1H), 3.2 (broad doublet, 2H), 2.7 (d and s, 4H), 1.5 (d, 2H); ir (KBr): 3.25, 6.25, 6.65, 8.05, 8.6, 12.5μ].

reactant | alpha-(4-picolylthio)p-methoxyacetophenone | 7.3 mmoles, 1.99 g | N1=CC=C(C=C1)CSCC(=O)C1=CC=C(C=C1)OC | C15H15NO2S
reactant | Sodium borohydride | 11.7 mmoles, 0.45 g | [BH4-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 4-[2-(4-Methoxyphenyl)-2-hydroxyethylthiomethyl]pyridine | COC1=CC=C(C=C1)C(CSCC1=CC=NC=C1)O | C15H17NO2S
